US04886620
9.6 g of diethyl azodicarboxylate dissolved in tetrahydrofuran is added to a mixture of 19.4 g of 4-(4'-hydroxybiphenyl-4-yl)-1-cyano-1-octylcyclohexane, 6.5 g of ethyl lactate and 13.1 g of triphenylphosphene in 300 ml of tetrahydrofuran, stirring is carried out for one hour at 50°, the mixture is allowed to stand overnight, the solvent is removed and the residue is taken up in 100 ml of hot toluene. After the toluene solution has been cooled to 0°, it is filtered and the product is isolated from the filtrate as usual by chromatography. Optically active ethyl 2-[4'-(4-cyano-4-octylcyclohexyl)biphenyl-4-yloxy]propionate is obtained.

reactant | diethyl azodicarboxylate | 9.6 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(4'-hydroxybiphenyl-4-yl)-1-cyano-1-octylcyclohexane | 19.4 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)C1CCC(CC1)(CCCCCCCC)C#N | C27H35NO
reactant | ethyl lactate | 6.5 g | C(C(O)C)(=O)OCC | C5H10O3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | ethyl 2-[4'-(4-cyano-4-octylcyclohexyl)biphenyl-4-yloxy]propionate | C(#N)C1(CCC(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)OC(C(=O)OCC)C)CCCCCCCC | C32H43NO3
